US07592362B2
1-(2-Bromo-3,5,6-trimethylphenyl)ethanone
To a mixture of 1-bromo-2,4,5-trimethylbenzene (5.0 g, 25.0 mmol) and acetyl chloride (2.45 ml, 34.5 mmol) in dichloromethane (50 ml) was added aluminium chloride (4.42 g, 33.1 mmol) in dichloromethane (50 ml) and the reaction mixture was stirred at room temperature for 18 h. The mixture was poured into water and the two layers were separated. The organic phase was washed with saturated aqueous sodium hydrogen carbonate solution, dried (MgSO4) and filtered through silica. The filtrate was concentrated in vacuo to give the title compound (5.50 g).

reactant | 1-bromo-2,4,5-trimethylbenzene | 25.0 mmol, 5.0 g | BrC1=C(C=C(C(=C1)C)C)C | C9H11Br
reactant | acetyl chloride | 34.5 mmol, 2.45 ml | C(C)(=O)Cl | C2H3ClO
reactant | aluminium chloride | 33.1 mmol, 4.42 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(2-Bromo-3,5,6-trimethylphenyl)ethanone | 5.50 g | BrC1=C(C(=C(C=C1C)C)C)C(C)=O | C11H13BrO
